US04208204
1.7 g. (0.011 moles) of 3-hydroxy-3-methylglutaric acid anhydride (prepared according to the method of Hilz, et al, Biochem Zeit, 329, 476-489 (1958)) in 30 ml of 15 N ammonium hydroxide is allowed to stand at 25° C. for 10 minutes. The solution is then evaporated to dryness under vacuum and the resulting residue dissolved in 10 ml of warm methanol. Ethyl acetate (10 ml) is then slowly added to the methanol solution. Upon cooling, 1.5 g. of 3-hydroxy-3-methylglutaric acid monoamide, ammonium salt is obtained as a white crystalline solid.

reactant | 3-hydroxy-3-methylglutaric acid anhydride | 0.011 moles | OC1(CC(=O)OC(C1)=O)C | C6H8O4
reactant | ammonium hydroxide | 15 N, 30 ml | [OH-].[NH4+]
product | 3-hydroxy-3-methylglutaric acid monoamide, ammonium salt | [NH4+].OC(CC(=O)N)(CC(=O)[O-])C | InChI=1S/C6H11NO4.H3N/c1-6(11,2-4(7)8)3-5(9)10;/h11H,2-3H2,1H3,(H2,7,8)(H,9,10);1H3
